US05523302
2c) Ethyl 5-formyl-2-hydroxybenzoate
5-Formylsalicylic acid (3.0 g, 17 mmol), conc. sulfuric acid (1 mL) and absolute ethanol (100 mL) were heated at reflux for 3.5 days with stirring under N2. The reaction was cooled, then carefully quenched by adding saturated sodium bicarbonate (40 mL). Solvent was removed in vacuo, and the resulting mixture was acidified with 1 M HCl (50 mL), then extracted with EtOAc. The organic phase was extracted with water, then brine, and dried (MgSO4). Removal of solvent and chromatography on silica gel, eluting with 0% to 25% EtOAc in hexanes gave a colorless crystalline solid (2.3 g), mp 67°-69° C., after solvent removal. 1H-NMR(300 MHz, CDCl3): 11.49 (s, 1H), 9.90 (s, 1H), 8.40 (d, 1H, J=2 Hz), 8.00 (dd, 1H, J=8,2 Hz), 7.11 (d, 1H, J=8 Hz), 4.48 (q, 2H, J=7 Hz), 1.46 (t, 3H, J=7 Hz). IR (KBr): cm-1 3186, 1684.

reactant | 5-Formylsalicylic acid | 17 mmol, 3.0 g | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 5-formyl-2-hydroxybenzoate | 2.3 g | C(=O)C=1C=CC(=C(C(=O)OCC)C1)O | C10H10O4
